* Z:\home\of-1\receiver_master.asc
C1 P001 N002 100µ
R1 Ausgang P001 100
D1 Ausgang 3.3V diodePro4
D2 0 Ausgang diodePro4
R2 3.3V Ausgang 100k
R3 Ausgang 0 100k
R4 0 Ausgang 1e6
V1 N002 N001 PULSE(0 -60 0 0 0 5e-4 1e-3)
V2 N001 0 960
V3 3.3V 0 3.3
.model D D
.lib Z:\usr\share\ltspice\lib\cmp\standard.dio
.tran 50m
.model diodePro4 D(Is=.88f Rs=.25 Cjo=175p M=.55 bv=2.7 Vj=.75 Isr=1.86n Nr=2 Ibv=20.254m Ibvl=1.96m Nbvl=15 Tbv1=-21.3u Vpk=60 type=Zener)
.backanno
.end
