* Z:\home\of-1\repository\education\FHNW\2016-01\local\pro4E\project-powerline\doc\simulations\singlecell.asc
I1 0 N001 10
C1 N001 0 {Cpara}
D1 N001 0 diode1
R1 N001 0 {Rshunt}
R2 N002 N001 {Rseries}
.model D D
.lib Z:\usr\share\ltspice\lib\cmp\standard.dio
.model diode1 D(IS=5e-6 N=1.6)
.tran 1m
.param Rshunt = 830
.param Rseries = 0.33m
.param Cpara = 12u
.backanno
.end
