* C:\Users\Bastli\Documents\GitHub\project-powerline\hardware\sim\sensor.asc
V2 N004 0 SINE(0 3 30000)
C1 N001 0 10e-15
C2 N002 N004 10e-1
V1 N001 0 60
L1 N002 N001 1µ
C3 N002 0 1µ
RL N003 0 6
L2 N003 N002 1µ
.tran 0.1
.backanno
.end
