* Z:\home\yatekii\Projects\project-powerline\hardware\supervisor\sim\RX.asc
V1 IN 0 PULSE(192 180 0 10e-10 10e-10 1us 2us)
C1 BIASED DIVIDER 100n
R1 IN DIVIDER 4k
R2 DIVIDER 0 1k
V2 N001 0 3.3
R3 INVERTED 0 10k
L1 N002 BIASED 22m
M1 OUT INVERTED 0 0 BSS123
R4 N001 OUT 100
R5 N001 N002 1.5k
R6 N002 0 1k
R7 BIASED 0 1k
M2 INVERTED BIASED N001 N001 BSS84
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 10ms 0 uic
.backanno
.end
